US05607960
5-(1-Hydroxyethyl)-3-(N-methyl-4-piperidyl)-1H-indole
A 1.7M solution of t-butyllithium in hexane (8.03 ml, 13.65 mmol) was added dropwise, under nitrogen, to a stirred solution of 5-bromo-3-(N-methyl-4-piperidyl)-1H-indole (EP-A-0303507, 1.0 g, 3.4 mmol) in dry tetrahydrofuran (35 ml) at about -70° C., ensuring that the temperature of the reaction mixture did not rise above -50° C. during the addition. The resulting mixture was allowed to warm to room temperature over a period of 1 hour, then cooled to about -70° C. and treated, dropwise, with a solution of acetaldehyde (0.15 g, 3.4 mmol) in dry tetrahydrofuran (5 ml). After being stirred for a further 0.5 hour at about -70° C., the reaction mixture was quenched with water and allowed to warm to room temperature. The bulk of the organic solvents was removed by evaporation under reduced pressure and the remaining mixture partitioned between ethyl acetate and 10% aqueous ammonium chloride solution. The organic phase was separated, combined with two further ethyl acetate extracts of the aqueous phase, dried (Na2SO4) and evaporated under reduced pressure to give an oil which was purified by column chromatography on silica gel, eluting with 0.880 aqueous ammonia:methanol:dichloromethane (1:20:79), to provide the title compound which was employed in the following Example without further characterisation.

reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | hexane | 13.65 mmol, 8.03 ml | CCCCCC | C6H14
reactant | 5-bromo-3-(N-methyl-4-piperidyl)-1H-indole | 3.4 mmol, 1.0 g | BrC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H17BrN2
reactant | acetaldehyde | 3.4 mmol, 0.15 g | C(C)=O | C2H4O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-(1-Hydroxyethyl)-3-(N-methyl-4-piperidyl)-1H-indole | OC(C)C=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C16H22N2O
